US05073629
Anhydrous dimethyl sulfoxide (DMSO, 8.8 ml) was carefully added by syringe to a stirred solution of oxalyl chloride (4.8 ml) in methylene chloride (40 ml), maintained at -50° C. to -60° C. The mixture was then stirred 2 min. A solution of 2-dimethylamino-4,4-diphenyl-9-decene-5-ol (1 g) in methylene chloride (2 ml) was added, and stirring continued for 5 min. The mixture was allowed to warm to room temperature, diluted with water, and washed with sodium bicarbonate solution. Rotary evaporation of the solution gave a crude product which was flash-chromatographed over silica gel. Elution with chloroform/methanol (20:1) yielded 0.5 g of 2-dimethylamino-4,4-diphenyl-9-decene-5-one.

reactant | dimethyl sulfoxide | 8.8 ml | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 4.8 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-dimethylamino-4,4-diphenyl-9-decene-5-ol | 1 g | CN(C(C)CC(C(CCCC=C)O)(C1=CC=CC=C1)C1=CC=CC=C1)C | C24H33NO
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-dimethylamino-4,4-diphenyl-9-decene-5-one | 0.5 g | CN(C(C)CC(C(CCCC=C)=O)(C1=CC=CC=C1)C1=CC=CC=C1)C | C24H31NO
